US07777038B2
600 mg of 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene]thiazolidine-2,4-dione, 415 mg of diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate, and 600 mg of silica gel were added to 20 ml of toluene, followed by heating and refluxing for 14 hours. The solvent was distilled off, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1→1:1). The purified product was recrystallized from an ethyl acetate-ether mixed solvent, giving 585 mg (97% yield) of 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione as a white powder.

reactant | 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene]thiazolidine-2,4-dione | 600 mg | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O)C=C1C(NC(S1)=O)=O | C21H17N3O6S
reactant | diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 415 mg | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[8-methoxy-1-(4-nitrobenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 585 mg, 97% yield | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1C(NC(S1)=O)=O | C21H19N3O6S
